US05318966
A solution of 1.80 g (0.004 mol) of rac-cis-N-[6-(1,2,3a,4,5,9b-hexahydro-6-methoxy-3H-benzo[e]indol-3-yl)hexyl]phthalimide hydrochloride in 100 ml of methylene chloride was treated dropwise with a solution of 1.8 ml (0.019 mol) of boron tribromide in 10 ml of methylene chloride. The mixture was stirred at room temperature for 1.5 hours, subsequently treated dropwise with 25 ml (0.05 mol) of 2N sodium hydroxide solution while cooling with an ice bath and then poured into water, whereupon aqueous sodium hydrogen carbonate solution was added until a pH of 8 had been reached. The mixture was extracted with chloroform, the extracts were dried over sodium sulphate and the solvent was distilled off in a vacuum. The residue was chromatographed over silica gel with methylene chloride/methanol (20:1). The oil obtained was dissolved in ethanol and treated with ethanolic HCl. Distillation of the solvent and recrystallization from methanol gave 0.93 g (53%) of rac-cis-N-[6-(1,2,3a,4,5,9b-hexa-hydro-6-hydroxy- 3H-benzo[e]indol-3-yl)-hexyl]phthalimide hydrochloride as white crystals with m.p. 218°.

reactant | rac-cis-N-[6-(1,2,3a,4,5,9b-hexahydro-6-methoxy-3H-benzo[e]indol-3-yl)hexyl]phthalimide hydrochloride | 0.004 mol, 1.80 g | Cl.COC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCCCN2C(C=1C(C2=O)=CC=CC1)=O
reactant | boron tribromide | 0.019 mol, 1.8 ml | B(Br)(Br)Br | BBr3
reactant | sodium hydroxide | 0.05 mol, 2N, 25 ml | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | HCl | Cl | ClH
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | rac-cis-N-[6-(1,2,3a,4,5,9b-hexa-hydro-6-hydroxy- 3H-benzo[e]indol-3-yl)-hexyl]phthalimide hydrochloride | 0.93 g, 53% | Cl.OC1=CC=CC=2[C@H]3CCN([C@H]3CCC21)CCCCCCN2C(C=1C(C2=O)=CC=CC1)=O | InChI=1S/C26H30N2O3.ClH/c29-24-11-7-10-18-19-14-17-27(23(19)13-12-20(18)24)15-5-1-2-6-16-28-25(30)21-8-3-4-9-22(21)26(28)31;/h3-4,7-11,19,23,29H,1-2,5-6,12-17H2;1H/t19-,23+;/m1./s1
